US05932601
In substantially the same manner as in Working Example 11, 3-isopropoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamaldehyde was condensed with 2,4-oxazolidinedione. The condensate was subjected to catalytic hydrogenation to yield 5-[3-[3-isopropoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.120-121° C.

reactant | 3-isopropoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamaldehyde | C(C)(C)OC=1C=C(C=CC=O)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C23H23NO4
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 5-[3-[3-isopropoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione | C(C)(C)OC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C26H28N2O6
